US07495014B2
N-[4-Bromo-2-(3-fluoro-pyridin-2-yl)-phenyl]-2,2-dimethyl-propionamide:
To a room temperature suspension of N-[2-(3-fluoro-pyridin-2-yl)-phenyl]-2,2-dimethyl-propionamide (˜77 mmoles) in acetic acid (300 mL) was added bromine (12 mL, 228 mmoles) as a solution in 50 mL of acetic acid over a 1 hour period. The heterogenous mixture was stirred at room temperature for 5 hours over which time a thick precipitate formed. The mixture was then poured over ice, diluted with 1N Na2S2O3 (500 mL), and stirred for 1 hour. The solids were filtered, re-suspended in water (2 L), stirred for 1 hour, then filtered and washed with water again. The resulting solids were pumped to dryness at 50° C., re-suspended in HOAc (400 mL), and treated with bromine (4 mL, 76 mmoles) in acetic acid solution (20 mL) over a 20 minute period. The resulting heterogenous mixture was stirred for 5 hours, then quenched and treated as described above. The resulting solids were vacuum dried at 50° C. to afford the title compound (19.1 grams, 72%) as a tan powder.

reactant | N-[2-(3-fluoro-pyridin-2-yl)-phenyl]-2,2-dimethyl-propionamide | ˜77 mmoles | FC=1C(=NC=CC1)C1=C(C=CC=C1)NC(C(C)(C)C)=O | C16H17FN2O
reactant | bromine | 228 mmoles, 12 mL | BrBr | Br2
reactant | bromine | 76 mmoles, 4 mL | BrBr | Br2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | Na2S2O3 | 1N, 500 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | N-[4-Bromo-2-(3-fluoro-pyridin-2-yl)-phenyl]-2,2-dimethyl-propionamide | 19.1 grams, 72% | BrC1=CC(=C(C=C1)NC(C(C)(C)C)=O)C1=NC=CC=C1F | C16H16BrFN2O
